US05284847
7-Ethyl-6-methylthieno[2,3-b)pyrazine-2,3(1H,4H)dione
4.5 g of crude di-t-butyl 4-ethyl-5-methylthiophene-2,3-dicarbamate was dissolved in a mixture of 30 ml of acetic acid and 30 ml of diethyl oxalate, and refluxed for six hours. Upon cooling to room temperature, the crystalline precipitate was isolated (900 mg). Recrystallisation from hot acetic acid combined with charcoal (Norit SU 18) yielded 660 mg of the title compound, m.p.>300° C. MS: 210. 1H-NMR (DMSO-d6, δ): 1.0 (t, 3H), 2.2 (s, 3H), 2.6 (q, 2H), 11.9 (br.s, 1H), 12.1 (br.s, 1H).

reactant | di-t-butyl 4-ethyl-5-methylthiophene-2,3-dicarbamate | 4.5 g | C(C)C=1C(=C(SC1C)NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C | C17H28N2O4S
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | diethyl oxalate | 30 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | 7-Ethyl-6-methylthieno[2,3-b)pyrazine-2,3(1H,4H)dione | 660 mg | C(C)C1=C(SC=2NC(C(NC21)=O)=O)C | C9H10N2O2S
